US05308869
N-(o-Methylphenyl)-N'-(cyclohexyl)acetamidine
Glacial acetic acid (catalytic amount, 5 drops) was added to a mixture of o-toluidine (1.07 g, 10 mmol) and triethyl orthoacetate (1.94 g, 12 mmol) and was heated at 120° C. for 60 min. The reflux condenser was replaced by a distillation condenser and the low volatiles were distilled off at 74°-76° C. (head temperature) . The undistilled residue was dried under manifold vacuum to give a light yellow liquid. Now cyclohexyl amine (0.99 g, 10 mmol) followed by catalytic amount (0.1 ml) of glacial acetic acid was added and the resulting suspension was heated on oil bath at 140° C. for 12 hr. The reflux condenser was replaced by a distillation condenser and the low volatiles including unreacted cyclohexyl amine were removed under manifold vacuum (0.5 mm Hg). After it cooled to room temperature, dichloromethane (30 ml) was added and then it was washed with dil. sodium bicarbonate solution. The organic phase was dried over Na2SO4, filtered and concentrated to give an off-white solid. It was crystallized twice from 95 EtOH-H20 to give the title compound (0.636 g, 24%) as bright white needles. Mp 130°-31° C.

reactant | o-toluidine | 10 mmol, 1.07 g | NC=1C(=CC=CC1)C | C7H9N
reactant | triethyl orthoacetate | 12 mmol, 1.94 g | C(C)(OCC)(OCC)OCC | C8H18O3
reactant | cyclohexyl amine | 10 mmol, 0.99 g | C1(CCCCC1)N | C6H13N
catalyst | acetic acid | 5 drops | C(C)(=O)O | C2H4O2
solvent | acetic acid | 0.1 ml | C(C)(=O)O | C2H4O2
product | N-(o-Methylphenyl)-N'-(cyclohexyl)acetamidine | 0.636 g, 24% | CC1=C(C=CC=C1)NC(C)=NC1CCCCC1 | C15H22N2
